US09102688B2
8-Nitro-5-(trifluoromethyl)quinoline (Intermediate 33)
In a similar fashion using route 10 general procedure 20, 2-nitro-5-(trifluoromethyl)aniline (1.0 g, 4.85 mmol), glycerol (1.4 g, 15.0 mmol) and 3-nitrobenzenesulfonic acid sodium salt (1.42 g, 6.31 mmol) gave the title compound (820 mg, 80%) which was used in the next step without purification. The structure was confirmed by 1H NMR.

reactant | 2-nitro-5-(trifluoromethyl)aniline | 4.85 mmol, 1.0 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)C(F)(F)F | C7H5F3N2O2
reactant | glycerol | 15.0 mmol, 1.4 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 6.31 mmol, 1.42 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
product | 8-Nitro-5-(trifluoromethyl)quinoline | 820 mg, 80% | [N+](=O)([O-])C=1C=CC(=C2C=CC=NC12)C(F)(F)F | C10H5F3N2O2
